US05767296
EXAMPLE 37 Step 1: 10-Deacetyl-7-deoxybaccatin III
6.85 g of 7-deoxybaccatin III was dissolved in 250 ml of 95% ethanol, and 25 ml of hydrazine monohydrate was added thereto, followed by stirring at room temperature for 7 hours. Ethyl acetate was added to the reaction solution, the resulting mixture was washed successively with water and a saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel thin layer chromatography (a developing solvent; hexane:ethyl acetate=3:2 (v/v)) to yield 3.34 g of the titled compound as colorless crystals.

reactant | 7-deoxybaccatin III | 6.85 g | CC1=C2[C@H](C(=O)[C@@]3(CC[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)C)OC(=O)C | C31H38O10
reactant | hydrazine monohydrate | 25 ml | O.NN
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 10-Deacetyl-7-deoxybaccatin III | 3.34 g | CC1=C2[C@H](C(=O)[C@@]3(CC[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)C)O | C29H36O9
